US09162992B2
Acetaldehyde (24.7 mL, 44.2 mmol) was added dropwise to the cooled solution (0° C.) of O-benzyl-hydroxylamine hydrochloride (7.00 g, 43.85 mmol) in water (100 mL) and MeOH (20 mL). The reaction mixture was stirred for 16 h. The volatiles were removed under reduced pressure, and the water suspension was extracted with EtOAc (2×75 mL). The combined organic extracts were washed with brine, and then dried over Na2SO4 and evaporated to yield O-benzyl-N-vinyl-hydroxylamine (LXVI) in quantitative yield. 400 MHz 1H NMR (DMSO-d6, ppm) 7.48 (0.5H, q, J=5.8 Hz), 7.39-7.26 (5H, m), 6.86 (0.5H, q, J=5.5 Hz), 5.06 (1H, s), 4.97 (1H, s), 1.78 (1.5H, d, J=5.5 Hz), 1.76 (1.5H, d, J=5.8 Hz).

reactant | Acetaldehyde | 44.2 mmol, 24.7 mL | C(C)=O | C2H4O
reactant | O-benzyl-hydroxylamine hydrochloride | 43.85 mmol, 7.00 g | Cl.C(C1=CC=CC=C1)ON
solvent | water | 100 mL | O | H2O
solvent | MeOH | 20 mL | CO | CH4O
product | O-benzyl-N-vinyl-hydroxylamine | quantitative yield | C(C1=CC=CC=C1)ONC=C | C9H11NO
